US07435833B2
9-Oxo-bicyclo[3.3.1]nonane-3-carboxylic acid methyl ester
3-Bromo-2-bromomethyl-propionic acid methyl ester (30 g, 115 mmol) was added to a stirred solution of freshly distilled 1-cyclohex-1-enyl-pyrrolidine (20.4 mL, 126 mmol) and triethyl amine (35 mL, 252 mmol) in dry CH3CN (400 mL). After the addition, the mixture was heated (100° C.) and stirred for twelve hours before acetic acid (20 mL) and water (100 mL) were added. Then, heating was continued for another three hours. The solvent was evaporated and the residue was partitioned with diethyl ether and water. The organic phase was washed with a NaHCO3 solution until the washes became basic. It was then dried, filtered, and evaporated. The residue was purified over silica gel using 2-30% diethyl ether in hexanes to give the title compound as a clear oil.

reactant | 3-Bromo-2-bromomethyl-propionic acid methyl ester | 115 mmol, 30 g | COC(C(CBr)CBr)=O | C5H8Br2O2
reactant | 1-cyclohex-1-enyl-pyrrolidine | 126 mmol, 20.4 mL | C1(=CCCCC1)N1CCCC1 | C10H17N
reactant | triethyl amine | 252 mmol, 35 mL | C(C)N(CC)CC | C6H15N
reactant | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | CH3CN | 400 mL | CC#N | C2H3N
solvent | water | 100 mL | O | H2O
product | 9-Oxo-bicyclo[3.3.1]nonane-3-carboxylic acid methyl ester | COC(=O)C1CC2CCCC(C1)C2=O | C11H16O3
